US08557805B2
2-[(Methylsulfonyl)methyl]-5-[4-nitro-3-(tetrahydro-2H-pyran-4-yloxy)phenoxy]pyridine
To a solution of 4-(5-fluoro-2-nitrophenoxy)tetrahydro-2H-pyran (13.6 g) and 6-[(methylsulfonyl)methyl]pyridin-3-ol (13.9 g) in N,N-dimethylformamide (300 mL) was added potassium carbonate (39 g), and the mixture was stirred at 110° C. for 2 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=0:100 to 50:50, volume ratio) to give the title compound (23 g, yield 95%) as a yellow solid.

reactant | 4-(5-fluoro-2-nitrophenoxy)tetrahydro-2H-pyran | 13.6 g | FC=1C=CC(=C(OC2CCOCC2)C1)[N+](=O)[O-] | C11H12FNO4
reactant | 6-[(methylsulfonyl)methyl]pyridin-3-ol | 13.9 g | CS(=O)(=O)CC1=CC=C(C=N1)O | C7H9NO3S
reactant | potassium carbonate | 39 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(Methylsulfonyl)methyl]-5-[4-nitro-3-(tetrahydro-2H-pyran-4-yloxy)phenoxy]pyridine | 23 g, yield 95% | CS(=O)(=O)CC1=NC=C(C=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])OC1CCOCC1 | C18H20N2O7S
